US08258097B2
To a solution of (S)-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (0.90 g) in dichloromethane (12 ml) cooled with an ice-bath was added 4 MHCl in dioxane (6 ml). The mixture was stirred at 0° C. for 2 h. Diethyl ether was added and a white solid was precipitated. (S)-2-(3-Benzyloxy-4-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride was obtained as white solid by filtration, 0.83 g. 1H NMR (400 MHz, d6-DMSO) 2.64 (s, 3H), 3.10 (m, 2H), 3.68 (s, 3H), 4.33 (m, 1H), 5.10 (s, 2H), 6.79 (m, 1H), 7.04-7.12 (m, 2H), 7.32-7.45 (m, 5H), 7.60 (m, 1H), 8.64 (s, 3H).

reactant | (S)-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 0.90 g | COC([C@H](CC1=CC(=C(C=C1)OC(NC)=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H30N2O7
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(3-Benzyloxy-4-methylcarbamoyloxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)OC=1C=C(C=CC1OC(NC)=O)C[C@@H](C(=O)OC)[NH3+] | InChI=1S/C19H22N2O5.ClH/c1-21-19(23)26-16-9-8-14(10-15(20)18(22)24-2)11-17(16)25-12-13-6-4-3-5-7-13;/h3-9,11,15H,10,12,20H2,1-2H3,(H,21,23);1H/t15-;/m0./s1
